US07368578B2
A mixture of 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole (13.12 g), 4-hydroxy-3-methoxymethoxybenzaldehyde (11.0 g), potassium carbonate (8.35 g) and N,N-dimethylformamide (200 mL) was stirred at 90° C. for 3 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration and dried to give 4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)benzaldehyde as pale-brown crystals (16.11 g, yield 78%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 102-103° C.

reactant | 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole | 13.12 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | 4-hydroxy-3-methoxymethoxybenzaldehyde | 11.0 g | OC1=C(C=C(C=O)C=C1)OCOC | C9H10O4
reactant | potassium carbonate | 8.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)benzaldehyde | 16.11 g, yield 78% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=O)C=C1)OCOC)C | C18H17NO6
